US07091214B2
(3-Methylsulfanylpropyl)-(3-nitro-7-phenylquinolin-4-yl)amine (3.0 g, 8.5 mmol) was hydrogenated in a Parr bottle over Pt/C (0.3 g of 5%) in 42 mL of toluene for 1 h. The reaction mixture was filtered through CELITE filter agent, washed with methanol (100 mL) and CHCl3 (50 mL), and then concentrated to afford 2.75 g of N4-(3-methylsulfanylpropyl)-7-phenylquinoline-3,4-diamine as a brown oil.

reactant | (3-Methylsulfanylpropyl)-(3-nitro-7-phenylquinolin-4-yl)amine | 8.5 mmol, 3.0 g | CSCCCNC1=C(C=NC2=CC(=CC=C12)C1=CC=CC=C1)[N+](=O)[O-] | C19H19N3O2S
solvent | toluene | 42 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pt/C | 0.3 g | [Pt] | Pt
product | N4-(3-methylsulfanylpropyl)-7-phenylquinoline-3,4-diamine | 2.75 g | CSCCCNC1=C(C=NC2=CC(=CC=C12)C1=CC=CC=C1)N | C19H21N3S
